US03995056
A solution of 5.1 g of 3-(3'-p-chlorobenzoyl-2'-methoxy-phenyl)-propionic acid in 25 ml of thionyl chloride was refluxed for 21/2 hours and the excess thionyl chloride was distilled off. The residue was taken up in benzene and was evaporated to dryness to obtain 5.6 g of 3-(3'-p-chlorobenzoyl-2'-methoxy-phenyl)-propionyl chloride which was used as is for the next step.

reactant | 3-(3'-p-chlorobenzoyl-2'-methoxy-phenyl)-propionic acid | 5.1 g | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CCC(=O)O)OC)C=C1 | C17H15ClO4
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(3'-p-chlorobenzoyl-2'-methoxy-phenyl)-propionyl chloride | 5.6 g | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CCC(=O)Cl)OC)C=C1 | C17H14Cl2O3
